US08071818B2
b) (R,R,R)-1-phenylethylcarbamic acid-2,6-di-sec-butylphenyl ester
To an Agilent HPLC system fitted with a diode array detector and a 0.46 cm ID×25 cm long 10 mm KROMASIL Silica Column was charged 714 mg of racemic R-(+)-1-phenyl-ethyl)-carbamic acid-2,6-di-sec-butylphenyl ester dissolved in 10 ml of hexane/ethyl acetate (98:2) to give a 71.4 g/l feed solution. The sample was eluted with hexane/ethyl acetate (98:2) at 2 ml/min at 25° C. Fractions containing (R,R,R)-1-phenylethylcarbamic acid-2,6-di-sec-butylphenyl ester were collected and evaporated under reduced pressure at <55° C. At the highest loading, the (R,R,R)-stereoisomer was collected with a chiral purity of 98.7% diastereomeric excess (de) and a total yield of 53%.

reactant | carbamic acid-2,6-di-sec-butylphenyl ester | C(C)(CC)C1=C(C(=CC=C1)C(C)CC)OC(N)=O | C15H23NO2
solvent | hexane ethyl acetate | 10 ml | CCCCCC.C(C)(=O)OCC
product | (R,R,R)-1-phenylethylcarbamic acid-2,6-di-sec-butylphenyl ester | yield of 53% | [C@@H](C)(CC)C1=C(C(=CC=C1)[C@H](C)CC)OC(N[C@H](C)C1=CC=CC=C1)=O | C23H31NO2
